US07893056B2
A mixture of 1-[1-(diphenylmethyl)-3-methyl-3-azetidinyl]pyrrolidine (0.94 g, 3.07 mmol) and 20% Pd(OH)2 (0.11 g) in ethanol (30 ml) and 1N HCl (7 ml) was treated with H2 at 60 psi overnight. The catalyst was removed by filtration, and the filtrate was evaporated under vacuum. The residue was washed with benzene (3×5 ml) and dried under high vacuum to provide 1-(3-methyl-3-azetidinyl)pyrrolidine dihydrochloride (0.76 g, presumed 86% pure). LCMS: (M+H)+: 141.0.

reactant | 1-[1-(diphenylmethyl)-3-methyl-3-azetidinyl]pyrrolidine | 3.07 mmol, 0.94 g | C1(=CC=CC=C1)C(N1CC(C1)(C)N1CCCC1)C1=CC=CC=C1 | C21H26N2
reactant | HCl | 1N, 7 ml | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | Pd(OH)2 | 0.11 g | [OH-].[OH-].[Pd+2]
product | 1-(3-methyl-3-azetidinyl)pyrrolidine dihydrochloride | 0.76 g, 86% | Cl.Cl.CC1(CNC1)N1CCCC1 | InChI=1S/C8H16N2.2ClH/c1-8(6-9-7-8)10-4-2-3-5-10;;/h9H,2-7H2,1H3;2*1H
